US05614499
Propanediol monobenzyl ether (0.83 g, 5 mmol) was dissolved in dry pyridine (0.6 g, 7 mmol) and dichloromethane (20 ml) and cooled to -15° C. Triflic anhydride, precooled to -15° C., was added and the reaction mixture stirred for 45 min under which the temperature was allowed to rize to 15° C. The solvent was evaporated and the product dissolved in hexane/ethyl acetate 4:1 (10 ml) and filtered through silica. Finally the solvent was evaporated and the product dried in vacuo to yield 0.95 g (64%) of 1-benzyloxy 3-trifluoromethanesulfonylpropane which was used directly (see Example 21).

reactant | Propanediol monobenzyl ether | 5 mmol, 0.83 g | C(C1=CC=CC=C1)OC(CC)O | C10H14O2
reactant | pyridine | 7 mmol, 0.6 g | N1=CC=CC=C1 | C5H5N
reactant | Triflic anhydride | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | rize | CCC1=CC2=C(S1)N(C(=O)CN=C2C3=CC=CC=C3Cl)C | C16H15ClN2OS
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-benzyloxy 3-trifluoromethanesulfonylpropane | 0.95 g, 64% | C(C1=CC=CC=C1)OCCCS(=O)(=O)C(F)(F)F | C11H13F3O3S
